

*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

* //////////////////////////////////////////////////
* LMC6572B Low Power CMOS Dual Operational Amplifier
* //////////////////////////////////////////////////
*
* Connections:      Non-inverting input
*                   |   Inverting input
*                   |   |   Positive power supply
*                   |   |   |   Negative power supply
*                   |   |   |   |   Output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LMC6572B/NS 1   2  99  50  28
*
* USER WARNING:  Ultra-low input bias current REQUIRES that
*                                       SPICE option GMIN=1E-16 or smaller!
* Features:
* Operates from single supply
* Rail-to-rail output swing
* Low offset voltage (max) =             7mV
* Ultra low input current =             20fA
* Slew rate =                        .09V/uS
* Gain-bandwidth product =            220kHz 
* Low supply current =                  40uA/Amplifier
*
* NOTE: - Model is for single device only and simulated
*         supply current is 1/2 of total device current.
*       - Noise is not modeled.
*       - Asymmetrical gain is not modeled.
*
CI1 1  50 2P                                   
CI2 2  50 2P                                
* 60E-3 Hz pole capacitor  
C3  98 9  247N                               
* 400 kHz pole capacitor 
C4  6  5  4.75P                                 
* 1.3 MHz pole capacitor    
C5  98 15 120F                                  
* Drain-substrate capacitance
C6  50 4  5P                                   
* 10 MHz pole capacitor 
C7  98 11 7.6F                                 
DP1 1  99 DA
DP2 50 1  DX
DP3 2  99 DB
DP4 50 2  DX
D1  11 8  DX
D2  10 11 DX
D3  15 20 DX
D4  21 15 DX
D5  26 24 DX
D6  25 27 DX
D7  22 99 DX
D8  50 22 DX
D9  0  14 DX
D10 12 0  DX
EH  97 98 99    49 1.0
EN  0  96 0     50 1.0
* Input offset voltage--|      
EOS 7  1  POLY(1) 16 49 7M 1                    
EP  97 0  99    0  1.0
E1  97 19 99    15 1.0
* Sourcing load +Vs current 
F1  99 0  VA2   1                              
* Sinking load -Vs current
F2  0  50 VA3   1                              
F3  13 0  VA1   1
G1  98 9  5     6  0.1
G2  98 11 9     49 1U
G3  98 15 11    49 1U
* DC CMRR   
G4  98 16 POLY(2) 1 49 2 49 0 3.54E-8 3.54E-8 
I1  99 4  3.678U
I2  99 50 37.8U
* Load dependent pole  
L1  22 28 2.06M                              
* CMRR lead  
L2  16 17 79.2M                                
M1  5  2  4     99 MX
M2  6  7  4     99 MX
R3  5  50 37.6K
R4  6  50 37.6K
R5  98 9  1E7
R8  99 49 1.66E6
R9  49 50 1.66E6
R12 98 11 2.081E6
R13 98 17 1K
* -Rout  
R16 23 24 75                                   
* +Rout     
R17 23 25 70                                
* +Isc slope control      
R18 20 29 144.6K                             
* -Isc slope control 
R19 21 30 185K                                
R21 98 15 1E6
R22 22 28 4.54K
VA1 19 23 0V
VA2 14 13 0V
VA3 13 12 0V
V2  97 8  0.790V
V3  10 96 0.782V
V4  29 22 0.63V
V5  22 30 0.63V
V6  26 22 0.63V
V7  22 27 0.63V
.MODEL  DA D    (IS=5E-14)
.MODEL  DB D    (IS=4E-14)
.MODEL  DX D    (IS=1E-14)
.MODEL  MX PMOS (VTO=-1.74 KP=7.0547E-4)
.ENDS
*$

